US06703392B2
2-[1-(3,4-Methylenedioxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide:
prepared by reaction of 1-(3,4-Methylenedioxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with benzylamine

reactant | 1-(3,4-Methylenedioxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | C1OC=2C=C(CC3NCCC4=CC(=C(C=C34)OC)OC)C=CC2O1 | C19H21NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 2-[1-(3,4-Methylenedioxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide | C1OC=2C=C(CC3N(CCC4=CC(=C(C=C34)OC)OC)CC(=O)NCC3=CC=CC=C3)C=CC2O1 | C28H30N2O5
